*$
* INA145
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA145
* Date: 10FEB2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS120
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Updated PSpice symbol.
* 2. Updated Pin order.
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* PINOUT ORDER  REF VIN- VIN+ V- RG OUT V+ V01
* PINOUT ORDER   1   2    3   4   5  6  7   8
*****************************************************************************
.SUBCKT INA145 3 2 7 4 6 1 5 8 
*****************************************************************************
C27 11 20 55E-12 
C28 INT 24 178E-12 
C30 34 38 1E-12 
C31 35 39 5E-9 
C32 36 40 90E-12 
C33 47 0 3E-12 
C34 46 0 3E-12 
C35 46 47 2E-12 
C36 59 68 55E-12 
C37 69 73 178E-12 
C39 83 87 1E-12 
C40 84 88 5E-9 
C41 85 89 90E-12 
C42 5 0 3E-12 
C43 94 0 3E-12 
C44 94 5 2E-12 
D14 26 21 DS 
D15 21 31 DS 
D16 32 10 DD 
D17 13 33 DD 
D18 51 0 DVN 
D19 50 0 DVN 
D20 75 70 DS 
D21 70 80 DS 
D22 81 58 DD 
D23 61 82 DD 
D24 98 0 DVN 
D25 97 0 DVN 
D27 105 0 DS 
D29 107 0 DS 
D30 67 7 DD 
D31 4 67 DD 
D32 19 7 DD 
D33 4 19 DD 
E41 25 20 INT 20 1
E42 34 0 10 0 1
E43 35 0 13 0 1
E44 36 0 37 0 1
E45 41 42 40 0 -16
E46 45 41 39 0 3
E47 46 45 38 0 3
E48 43 0 47 0 1
E49 44 0 46 0 1
E50 48 49 50 51 0.022
E51 13 0 4 0 1
E52 10 0 7 0 1
E53 20 13 10 13 0.5
E54 74 68 69 68 1
E55 83 0 58 0 1
E56 84 0 61 0 1
E57 85 0 86 0 1
E58 90 8 89 0 -16
E59 93 90 88 0 3
E60 94 93 87 0 3
E61 91 0 5 0 1
E62 92 0 94 0 1
E63 95 96 97 98 0.022
E64 61 0 4 0 1
E65 58 0 7 0 1
E66 68 61 58 61 0.5
E69 26 25 106 0 1.8
E70 31 25 106 0 -1.8
E73 75 74 108 0 1.8
E74 80 74 108 0 -1.8
G5 11 20 INT 20 -1E-3
G6 21 20 22 23 -0.5E-3
G7 59 68 69 68 -1E-3
G8 70 68 71 72 -0.5E-3
I24 10 17 25E-6
I25 15 13 25E-6
I26 0 51 100E-6
I27 0 50 100E-6
I28 7 4 230E-6
I29 46 0 56E-9
I30 47 0 56E-9
I31 54 13 22E-6
I32 58 65 25E-6
I33 63 61 25E-6
I34 0 98 100E-6
I35 0 97 100E-6
I36 7 4 230E-6
I37 94 0 56E-9
I38 5 0 56E-9
I39 101 61 22E-6
I41 0 105 1E-3
I43 0 107 1E-3
Q42 10 11 12 QON 
Q43 13 11 14 QOP 
Q44 4 15 16 QOP 
Q45 7 17 18 QON 
Q46 55 54 27 QIP 
Q47 22 53 30 QIP 
Q48 23 56 28 QIP 
Q49 54 54 57 QIP 
Q50 58 59 60 QON 
Q51 61 59 62 QOP 
Q52 4 63 64 QOP 
Q53 7 65 66 QON 
Q54 102 101 76 QIP 
Q55 71 100 79 QIP 
Q56 72 103 77 QIP 
Q57 101 101 104 QIP 
R108 0 9 1E6 
R109 16 19 1 
R110 20 11 1E3 
R111 20 21 7E8 
R112 INT 21 3E3 
R113 20 24 50 
R114 27 10 5E3 
R115 13 23 10E3 
R116 13 22 10E3 
R117 28 29 6.5E3 
R118 30 29 6.5E3 
R119 9 19 5 
R120 34 38 10E6 
R121 35 39 10E6 
R122 36 40 10E6 
R123 0 38 100 
R124 0 39 100 
R125 0 40 10 
R126 43 37 1E3 
R127 37 44 1E3 
R128 45 46 1E9 
R129 41 45 1E9 
R130 42 41 1E9 
R131 52 46 6.5E3 
R132 48 53 6.5E3 
R133 4 7 1E6 
R134 14 17 1 
R135 15 12 1 
R136 19 18 1 
R138 57 10 5E3 
R139 9 47 39.995E3 
R140 47 2 40E3 
R141 42 1 40E3 
R142 3 42 40E3 
R144 64 67 1 
R145 68 59 1E3 
R146 68 70 7E8 
R147 69 70 3E3 
R148 68 73 50 
R149 76 58 5E3 
R150 61 72 10E3 
R151 61 71 10E3 
R152 77 78 6.5E3 
R153 79 78 6.5E3 
R154 6 67 5 
R155 83 87 10E6 
R156 84 88 10E6 
R157 85 89 10E6 
R158 0 87 100 
R159 0 88 100 
R160 0 89 10 
R161 91 86 1E3 
R162 86 92 1E3 
R163 93 94 1E9 
R164 90 93 1E9 
R165 8 90 1E9 
R166 99 94 6.5E3 
R167 95 100 6.5E3 
R168 4 7 1E6 
R169 62 65 1 
R170 63 60 1 
R171 67 66 1 
R173 104 58 5E3 
R177 9 8 10E3 
R179 0 106 6.5E3 
R181 0 108 6.5E3 
R182 0 80 1E9 
R183 0 75 1E9 
R184 0 31 1E9 
R185 0 26 1E9 
R186 106 0 1E9 
R187 108 0 1E9 
V20 32 21 1.6
V21 21 33 0.58
V22 49 47 0
V27 81 70 1.6
V28 70 82 0.58
V29 96 5 0
V31 105 106 0.5
V33 107 108 0.5
V34 103 99 -0.2E-3
V35 56 52 -0.1E-3
V37 102 78 -1
V38 55 29 -1
.MODEL DD D
.MODEL DVN D KF=1.6E-13
.MODEL DS D RS=10 IS=5E-15
.MODEL QIN NPN BF=100 KF=8E-17
.MODEL QIP PNP BF=100 KF=2.15E-17
.MODEL QON NPN BF=800 RC=50
.MODEL QOP PNP BF=800 RC=50
.ENDS INA145
*
