*$
* INA148
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA148
* Date: 08FEB2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS123
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* Updated PSpice symbol.
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
* 1. Below features are Modeled :
*     BANDWIDTH, INPUT VOLTAGE NOISE,
*     SETTLING TIME TO 0.1 AND 0.01 %
*     INPUT COMMON MODE VOLT RANGE
*     INPUT IMPEDANCE
*     INPUT CLAMPS TO RAILS
*     CMRR WITH FREQUENCY EFFECTS
*     PSRR WITH FREQUENCY EFFECTS
*     SLEW RATE
*     QUIESCENT CURRENT
*     QUIESCENT CURRENT VS VOLTAGE
*     HIGH CLOAD EFFECTS
*     OUTPUT CURRENT THROUGH SUPPLIES
*     OUTPUT CURRENT LIMITING
*     OUTPUT CLAMPS TO RAILS
*     OUTPUT SWING VS OUTPUT CURRENT
* 2. Model is applicable to INA148 and INA148-Q1.
*****************************************************************************
* PINOUT ORDER +IN -IN +V -V OUT VREF
* PINOUT ORDER  3   2   7  4  6    1
*****************************************************************************
.SUBCKT INA148 3 2 7 4 6 1
C6 32 36 10E-12 
C7 33 37 5E-12 
C8 34 38 1E-9 
C12 20 6 17.7E-12 
C13 49 51 50E-12 
C14 30 0 4E-12 
C15 28 0 4E-12 
C16 6 0 1E-12 
C21 30 28 8E-12 
C23 55 43 16E-12 
C26 3 0 0.1E-12 
C27 2 0 0.1E-12 
D5 6 7 DD 
D6 4 6 DD 
D7 24 0 DIN 
D8 25 0 DIN 
D9 26 0 DVN 
D10 27 0 DVN 
D11 19 22 DD 
D12 10 19 DD 
D13 45 8 DD 
D14 56 47 DD 
D17 63 60 DD 
D18 61 62 DD 
D19 65 0 DD 
E2 10 0 4 0 1
E3 22 0 7 0 1
E4 28 29 26 27 0.005
E5 32 0 22 0 1
E6 33 0 10 0 1
E7 34 0 35 0 1
E10 39 31 38 0 -0.5
E11 42 39 37 0 0.028
E12 30 42 36 0 0.0025
E14 43 10 22 10 0.5
E17 41 0 30 0 1
E18 40 0 29 0 1
E20 59 43 51 49 1
E23 22 53 22 63 1
E24 54 10 62 10 1
E25 16 22 7 17 -2.2
E26 14 10 18 4 2.2
G2 30 29 24 25 2.5E-7
G3 19 43 55 43 0.2E-3
G7 60 43 19 43 -1E-3
G8 43 61 19 43 1E-3
G9 43 62 52 10 1E-3
G10 63 43 22 48 1E-3
G11 7 4 64 0 -165E-6
G12 7 4 7 4 -2.5E-6
I8 0 24 0.1E-3
I9 0 25 0.1E-3
I10 0 26 0.2E-6
I11 0 27 0.2E-6
I14 48 52 40E-6
I15 58 10 45E-6
I19 0 65 1E-3
I20 7 4 214E-6
I21 28 0 1E-9
I22 30 0 1E-9
J1 22 30 22 JNC 
J2 22 28 22 JNC 
J3 28 10 28 JNC 
J4 30 10 30 JNC 
M1 44 45 18 18 NOUT L=3U W=800U
M2 46 47 17 17 POUT L=3U W=800U
M3 48 48 21 21 POUT L=3U W=800U
M4 49 50 11 11 PIN L=3U W=60U
M5 51 28 13 13 PIN L=3U W=60U
M8 52 52 23 23 NOUT L=3U W=800U
M19 57 58 22 22 PIN L=6U W=500U
M23 58 58 22 22 PIN L=6U W=500U
Q15 56 15 22 QPL 
Q20 8 9 10 QNL 
R3 11 12 2 
R4 13 12 2 
R10 9 14 100 
R11 15 16 100 
R12 17 7 23 
R13 4 18 23 
R14 0 6 10E3 
R16 19 20 100 
R17 21 22 23 
R18 10 23 23 
R22 4 7 500E6 
R28 31 3 1MEG 
R30 32 36 1E6 
R31 33 37 1E6 
R32 34 38 1E6 
R33 0 36 100 
R34 0 37 100 
R35 0 38 100 
R36 40 35 1E3 
R37 35 41 1E3 
R43 53 47 100 
R44 54 45 100 
R45 43 19 90E6 
R46 10 49 2E3 
R47 10 51 2E3 
R59 6 46 300 
R60 44 6 300 
R62 59 55 10E3 
R66 60 63 100E6 
R67 62 61 100E6 
R68 63 22 1E3 
R69 10 62 1E3 
R70 61 43 1E6 
R71 62 43 1E6 
R72 43 63 1E6 
R73 43 60 1E6 
R74 0 64 1E6 
R75 42 30 1E9 
R76 39 42 1E9 
R77 31 39 1E9 
R78 29 28 1E9 
R79 43 55 1E9 
R81 53 22 1E9 
R82 10 54 1E9 
R83 35 0 1E9 
R86 29 66 50K 
R87 2 29 1MEG 
R88 66 6 50K 
R89 1 66 2.7778K 
R90 31 1 52.6316K 
R91 22 47 1E9 
R92 45 10 1E9 
R93 58 22 1E9 
V18 30 50 0
V20 57 12 0.2
V23 65 64 0.71
.MODEL QPL PNP
.MODEL QNL NPN
.MODEL JNC NJF IS=1E-17
.MODEL DVN D KF=3.3E-16 IS=1E-16
.MODEL DIN D
.MODEL DD D
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.ENDS INA148
*
